US04727080
Preparation of ethyl 6-fluoro-7-(pyrrol-1-yl)-1-cyclopropyl-1,4-dihydro-4-oxoquinoline-3-carboxylate
0.07 g (0.00115 mol) of a 60% suspension of sodium hydride in mineral oil is added to a solution of 0.41 g (0.00114 mol) of ethyl 3-cyclopropylamino-2-(2,5-difluoro-4-pyrrol-1-ylbenzoyl)acrylate in 10 ml of anhydrous dioxane. The mixture is heated at 80° C. for 2 hours under a nitrogen atmosphere and left to cool, 30 ml of water are added and the precipitate is filtered off and washed with water to give 0.3 g of a product melting at 216°-9° C.

reactant | sodium hydride | [H-].[Na+]
reactant | ethyl 3-cyclopropylamino-2-(2,5-difluoro-4-pyrrol-1-ylbenzoyl)acrylate | 0.00114 mol, 0.41 g | C1(CC1)NC=C(C(=O)OCC)C(C1=C(C=C(C(=C1)F)N1C=CC=C1)F)=O | C19H18F2N2O3
reactant | water | 30 ml | O | H2O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | ethyl 6-fluoro-7-(pyrrol-1-yl)-1-cyclopropyl-1,4-dihydro-4-oxoquinoline-3-carboxylate | 0.3 g | FC=1C=C2C(C(=CN(C2=CC1N1C=CC=C1)C1CC1)C(=O)OCC)=O | C19H17FN2O3
